US03965181
In this preparation a solution containing 1.5 grams of sodium borohydride in 30 ml. of water containing 1.5 ml. of 3N aqueous sodium hydroxide is added to a solution containing 15.0 g. of dibenzo[a,d]cyclohepten-5-one in 200 ml. of methanol at room temperature, with stirring. The resulting mixture is stirred for 45 minutes and then an additional 0.5 g. of borohydride in 10 ml. of water is added and the mixture stirred at room temperatue for 60 hours. The reaction mixture is then cooled in an ice water bath while 300 ml. of water is slowly added with stirring. The resulting precipitate is collected by filtration and washed repeatedly with water and dried under vacuum affording a residue of 5H-dibenzo[a,d]cyclohepten-5-ol, which is sufficiently pure to use as starting material for subsequent preparations.

reactant | sodium borohydride | 1.5 grams | [BH4-].[Na+]
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | dibenzo[a,d]cyclohepten-5-one | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=O | C15H10O
reactant | borohydride | [BH4-]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | 5H-dibenzo[a,d]cyclohepten-5-ol | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)O | C15H12O
